US07622492B2
A solution of lithium aluminum hydride in THF (1.0 M; 1.6 mL, 1.6 mmol) was added to a cooled (˜−15° C.) solution of 3-trifluoromethyl-1-trityl-1H-pyrazole-4-carboxylic acid ethyl ester (0.64 g, 1.4 mmol) in anhydrous tetrahydrofuran (15 mL). The solution was stirred at −10 to −15° C. for 45 min and then quenched at −10° C. with a solution of Rochelle's salt (2 mL). The mixture was stirred for 10 min and then the cooling bath was removed. Ethyl acetate (25 mL) was added and the mixture was stirred for 30 min, then it was filtered and the filter cake was washed with ethyl acetate. The filtrate was dried (magnesium sulfate), filtered, evaporated, and held under high vacuum over the weekend to give (3-trifluoromethyl-1-trityl-1H-pyrazol-4-yl)-methanol (0.62 g, quantitative) as a tacky white oil.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-trifluoromethyl-1-trityl-1H-pyrazole-4-carboxylic acid ethyl ester | 1.4 mmol, 0.64 g | C(C)OC(=O)C=1C(=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C26H21F3N2O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | THF | 1.6 mmol, 1.0 M, 1.6 mL | C1CCOC1 | C4H8O
product | (3-trifluoromethyl-1-trityl-1H-pyrazol-4-yl)-methanol | 0.62 g | FC(C1=NN(C=C1CO)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C24H19F3N2O
